US09290517B2
(3R,3aR,6R,6aR)-6-((6-chloro-5-(4-((1-(cyclopropylsulfonyl)piperidin-4-yl)ethynyl)phenyl)-1H-imidazo[4,5-b]pyridin-2-yl)oxy)hexahydrofuro[3,2-b]furan-3-ol
To a stirred solution of 2-(((3R,3aR,6R,6aS)-6-((tertbutyldimethylsilyl)oxy)hexa-hydrofuro[3,2-b]furan-3-yl)oxy)-6-chloro-5-(4-(piperidin-4-ylethynyl)phenyl)-1-((2-(trimethylsilyl)ethoxy)-methyl)-1H-imidazo[4,5-b]pyridine (33 mg, 0.045 mmol) in anhydrous dichloromethane (1.00 mL) was added DIEA (0.016 mL, 0.091 mmol) and cyclopropylsulfonyl chloride (14.6 mg, 0.113 mmol). After 2 hours, the mixture was directly loaded onto a Biotage™ 10 G silica gel SNAP cartridge and employing a linear gradient: 0-50% EtOAc in 1:1 Hex/DCM over 25 column volumes. The desired product fractions were combined and concentrated under reduced pressure to afford a colorless oil. The resultant colorless oil was dissolved in formic acid (1.0 mL), then saturated aqueous KHSO4 (0.25 mL) was added and the mixture was stirred at 50° C. After 2 hours, the reaction mixture was poured into saturated aqueous sodium bicarbonate (120 mL) and extracted with ethyl acetate (2×100 mL). The combined organic layers were concentrated under reduced pressure to afford a white solid which was dissolved in methanol (5 mL) and then treated with aqueous sodium hydroxide (3N, 1.0 mL). After stirring for 10 minutes, the mixture was neutralized with 1N aqueous HCl (3.0 mL), and poured into saturated aqueous sodium bicarbonate (40 mL). The aqueous mixture was extracted with ethyl acetate (2×60 mL). The combined organic layers were dried over sodium sulfate and concentrated under reduced pressure. The resultant white solid was dissolved in acetonitrile/water mixture, cooled to −78° C., and then lyophilized to dryness to afford the title compound as a white solid. LC-MS: calculated for C28H29ClN4O6S 584.15, observed m/e: 585.14 (M+H)+ (Rt 1.95/4 min); 1H NMR δ (ppm) (CD3OD): 7.78 (s, 1H), 7.60 (d, J=4.3 Hz, 2H), 7.45 (d, J=4.3 Hz, 2H), 5.52 (q, J=5.5 Hz, 1H), 4.95 (t, J=5.5 Hz, 1H), 4.45 (t, J=5.0 Hz), 4.27 (m, 1H), 4.15 (dd, J=10.0, 6.0 Hz, 1H), 4.09 (dd, J=10.0, 6.0 Hz, 1H), 3.88 (dd, J=8.0, 7.0 Hz, 1H), 3.59 (m, 4H), 3.21 (m, 2H), 2.88 (m, 1H), 2.49 (m, 1H), 2.03 (m, 2H), 1.80 (m, 2H), 1.03 (m, 4H).

reactant | 2-(((3R,3aR,6R,6aS)-6-((tertbutyldimethylsilyl)oxy)hexa-hydrofuro[3,2-b]furan-3-yl)oxy)-6-chloro-5-(4-(piperidin-4-ylethynyl)phenyl)-1-((2-(trimethylsilyl)ethoxy)-methyl)-1H-imidazo[4,5-b]pyridine | 0.045 mmol, 33 mg | C(C)(C)(C)[Si](O[C@@H]1CO[C@H]2[C@@H]1OC[C@H]2OC=2N(C=1C(=NC(=C(C1)Cl)C1=CC=C(C=C1)C#CC1CCNCC1)N2)COCC[Si](C)(C)C)(C)C | C37H53ClN4O5Si2
reactant | DIEA | 0.091 mmol, 0.016 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | cyclopropylsulfonyl chloride | 0.113 mmol, 14.6 mg | C1(CC1)S(=O)(=O)Cl | C3H5ClO2S
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | dichloromethane | 1.00 mL | ClCCl | CH2Cl2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (3R,3aR,6R,6aR)-6-((6-chloro-5-(4-((1-(cyclopropylsulfonyl)piperidin-4-yl)ethynyl)phenyl)-1H-imidazo[4,5-b]pyridin-2-yl)oxy)hexahydrofuro[3,2-b]furan-3-ol | ClC=1C=C2C(=NC1C1=CC=C(C=C1)C#CC1CCN(CC1)S(=O)(=O)C1CC1)N=C(N2)O[C@@H]2CO[C@H]1[C@@H]2OC[C@H]1O | C28H29ClN4O6S
